US08420812B2
4-Methyl-6-oct-1-ynyl-pyrimidine
This product was prepared from toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester and 1-octyne following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (37.6 mg, 40%); 1H NMR δ (CDCl3): 9.01 (s, 1H), 7.21 (s, 1H), 2.52 (s, 3H), 2.48 (t, J=7.23 Hz, 2H), 1.63 (p, J=7.17 Hz, 2H), 1.50-1.30 (m, 6H), 0.91 (t, J=7.25 Hz, 3H); LCMS m/z: 188.

reactant | toluene-4-sulfonic acid 6-methyl-pyrimidin-4-yl ester | CC1=CC(=NC=N1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H12N2O3S
reactant | 1-octyne | C#CCCCCCC | C8H14
reactant | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-Methyl-6-oct-1-ynyl-pyrimidine | CC1=NC=NC(=C1)C#CCCCCCC | C13H18N2
